US07138432B1
Stage 79.4: (4-[1,2,4] Triazol-1-yl-benzylamino)-acetic acid ethyl ester
To a solution of 3.5 g (20 mmol) of 4-[1,2,4] triazol-1-yl-benzaldehyde and 4.19 g (30 mmol) of glycine ethyl ester hydrochloride in 100 ml of CH2Cl2, 4.18 ml (30 mmol) of triethyl amine and excess of MgSO4 (14 g) are successively added at r.t. After being stirred for 18 h at r.t., the reaction mixture is filtered through celite and concentrated under reduced pressure. The residue is diluted with AcOEt and filtered again. The filtrate is concentrated under reduced pressure to give the crude imine. To a solution of the crude imine in 12 ml of MeOH, 0.756 mg (20 mmol) of NaBH4 is added at −10° C. After being stirred for 1 h, the reaction is quenched with sat. NH4Cl and the reaction mixture is extracted with AcOEt. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluent: n-Hexane: AcOEt=1:10) to give the title compound. 1H-NMR (400 MHz, CDCl3): 1.29 (t, 3H, J=7.04 Hz), 1.90 (brs, 1H), 3.43 (s, 2H), 3.88 (s, 2H), 4.21 (q, 2H, J=7.04 Hz), 7.49 (d, 2H, J=8.56 Hz), 7.64 (d, 2H, J=8.56 Hz), 8.10 (s, 1H), 8.55 (s, 1H).

reactant | 4-[1,2,4] triazol-1-yl-benzaldehyde | 20 mmol, 3.5 g | N1(N=CN=C1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | glycine ethyl ester hydrochloride | 30 mmol, 4.19 g | Cl.C(C)OC(CN)=O
reactant | triethyl amine | 30 mmol, 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | MgSO4 | 14 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH4 | 20 mmol, 0.756 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 12 ml | CO | CH4O
product | (4-[1,2,4] Triazol-1-yl-benzylamino)-acetic acid ethyl ester | C(C)OC(CNCC1=CC=C(C=C1)N1N=CN=C1)=O | C13H16N4O2
